US06723735B1
6-Bromo-3-[3-(imidazol-1-yl)phenyl]-3H-imidazo[4,5-b]pyridine was prepared from N-(5-bromo-3-nitropyridin-2-yl)-N-[3-(imidazol-1-yl)phenyl]amine as described in Example 1. Oxalate salt, cream-coloured powder, m.p. 236-238° C. (from ethanol); δH (400 MHz, d6-DMSO) 7.23 (1H, s), 7.75 (2H, m), 7.92 (1H, s), 8.01-8.03 (1H, m), 8.24 (1H, s), 8.51 (1H, s), 8.57 (2H, dd, J 6 and 2), 9.09 (1H, s); m/z (ES+) 340 and 342 (M++H).

reactant | N-(5-bromo-3-nitropyridin-2-yl)-N-[3-(imidazol-1-yl)phenyl]amine | BrC=1C=C(C(=NC1)NC1=CC(=CC=C1)N1C=NC=C1)[N+](=O)[O-] | C14H10BrN5O2
reactant | ethanol | C(C)O | C2H6O
product | 6-Bromo-3-[3-(imidazol-1-yl)phenyl]-3H-imidazo[4,5-b]pyridine | BrC=1C=C2C(=NC1)N(C=N2)C2=CC(=CC=C2)N2C=NC=C2 | C15H10BrN5
